US07378418B2
To a solution of 7,8-bis(4-chlorophenyl)-[1,2,4]triazolo[4,3-b]pyridazin-3(2H)-one, (50 mg, 0.14 mmol), prepared as described in Example 1 and 4-chlorophenyboronic acid (44 mg, 0.28 mmol) in pyridine (1.5 mL) was added copper (II) acetate (51 mg, 0.28 mmol) followed by triethylamine (0.04 mL, 0.28 mmol) and 3 Å molecular sieves (100 mg) under argon. The reaction mixture was stirred at reflux for 6 h. After this time, the reaction mixture was cooled to RT and diluted with water (5 mL). The resultant mixture was extracted with EtOAc (3×5 mL). The combined organic layers were washed with water (2×5 mL) and saturated aqueous NaCl (2×5 mL). The organic layer was dried over MgSO4, filtered and concentrated to obtain a crude product. The crude product was purified by preparative HPLC to give 2,7,8-tris(4-chlorophenyl)-[1,2,4]triazolo[4,3-b]pyridazin-3(2H)-one (5 mg, 8%) as yellow lyophilate. HPLC: 4.35 min; M+H=467; 1H NMR (CDCl3) δ 8.22 (1H, s), 8.10 (2H, d, J=10.0 Hz), 7.43 (2H, d, J=10.0 Hz), 7.35-7.38 (6H, m), 7.15 (2H, d, J=10.0 Hz).

reactant | 7,8-bis(4-chlorophenyl)-[1,2,4]triazolo[4,3-b]pyridazin-3(2H)-one | 0.14 mmol, 50 mg | ClC1=CC=C(C=C1)C1=C(C=2N(N=C1)C(NN2)=O)C2=CC=C(C=C2)Cl | C17H10Cl2N4O
reactant | 4-chlorophenyboronic acid | 0.28 mmol, 44 mg | ClC1=CC=C(C=C1)B(O)O | C6H6BClO2
reactant | triethylamine | 0.28 mmol, 0.04 mL | C(C)N(CC)CC | C6H15N
solvent | pyridine | 1.5 mL | N1=CC=CC=C1 | C5H5N
solvent | water | 5 mL | O | H2O
catalyst | copper (II) acetate | 0.28 mmol, 51 mg | C(C)(=O)[O-].[Cu+2].C(C)(=O)[O-]
product | 2,7,8-tris(4-chlorophenyl)-[1,2,4]triazolo[4,3-b]pyridazin-3(2H)-one | 5 mg, 8% | ClC1=CC=C(C=C1)N1N=C2N(N=CC(=C2C2=CC=C(C=C2)Cl)C2=CC=C(C=C2)Cl)C1=O | C23H13Cl3N4O
